US06228841B1
Z-Phe-OH (29.9 g, 100 mmol), MeβAla-O-t-Bu (16.0 g, 110 mmol), and 3-hydroxy-4-oxo-3,4-dihydro-1,2,3-benzotriazine (17.9 g, 110 mmol) was dissolved in methylene chloride (200 ml). This solution was cooled to −10° C., added with 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (21.1 g, 110 mmol), and then stirred at −10° C. for one hour and further at room temperature for 20 hours. After the solvent was evaporated under reduced pressure, the reaction mixture was added with ethyl acetate (100 ml), and washed with 1N hydrochloric acid and then with saturated aqueous sodium hydrogencarbonate. The solvent was concentrated under reduced pressure to obtain an oily product, which was purified by silica gel column chromatography (benzene: ethyl acetate=10:1 (v/v)) to obtain 42.6 g of Z-Phe-MeβAla-O-t-Bu as a colorless oily product.

reactant | Z-Phe-OH | 100 mmol, 29.9 g | N([C@@H](CC1=CC=CC=C1)C(=O)O)C(=O)OCC1=CC=CC=C1 | C17H17NO4
reactant | MeβAla-O-t-Bu | 110 mmol, 16.0 g | N(CCC(=O)OC(C)(C)C)C | C8H17NO2
reactant | 3-hydroxy-4-oxo-3,4-dihydro-1,2,3-benzotriazine | 110 mmol, 17.9 g | ON1N=NC2=C(C1=O)C=CC=C2 | C7H5N3O2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 110 mmol, 21.1 g | Cl.C(C)N=C=NCCCN(C)C
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | Z-Phe-MeβAla-O-t-Bu | 42.6 g | N([C@@H](CC1=CC=CC=C1)C(=O)N(CCC(=O)OC(C)(C)C)C)C(=O)OCC1=CC=CC=C1 | C25H32N2O5
